US08349835B2
Step C: General Procedure for the Synthesis of 2-amino-4-chloropropoxy-5-methoxy benzonitrile
A mixture of 2-nitro-4-chloropropoxy-5-methoxy-benzonitrile (0.563 g, 2.24 mmol), Pd/C (0.035 g) and anhydrous ethanol (25.0 mL) were added into a round bottom flask. The solution was stirred and heated under reflux. Cyclohexene (1.15 mL) was added and refluxed until the disappearance of the starting materials as monitored by TLC. After cooling, the resulting mixture was filtered and washed with ethanol. The filtrate was concentrated to yield a solid product. The crude product was suspended in anhydrous ethanol (4 ml), stirred at 40° C. to react for 30 min, then cooled to room temperature, filtered and air-dried to yield light yellow solid product (0.352 g) with a recovery rate of 71%.

reactant | 2-nitro-4-chloropropoxy-5-methoxy-benzonitrile | 2.24 mmol, 0.563 g | [N+](=O)([O-])C1=C(C#N)C=C(C(=C1)OCCCCl)OC | C11H11ClN2O4
reactant | Cyclohexene | 1.15 mL | C1=CCCCC1 | C6H10
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.035 g | [Pd] | Pd
solvent | ethanol | 25.0 mL | C(C)O | C2H6O
product | 2-amino-4-chloropropoxy-5-methoxy benzonitrile | 0.352 g | NC1=C(C#N)C=C(C(=C1)OCCCCl)OC | C11H13ClN2O2
